US04146646
Benzonitrile (5.2g) was added dropwise to a solution of 1,1,1-trichloro-2-hydroxy-2-(chloroacetamido)ethane (12.05g) in concentrated sulphuric acid (50 ml). The temperature was kept at 0° during the addition. The mixture was stirred at room temperature for 4 hours, then left overnight. The reaction mixture was poured on to ice. The precipitated solid was collected, washed with water and dried (19.6g). Recrystallisation from nitromethane gave pure 1,1,1-trichloro-2-benzamido-2-(chloroacetamido)ethane (14.6g, m.p. 210°-12°)

reactant | Benzonitrile | 5.2g | C(C1=CC=CC=C1)#N | C7H5N
reactant | 1,1,1-trichloro-2-hydroxy-2-(chloroacetamido)ethane | 12.05g | ClC(C(NC(CCl)=O)O)(Cl)Cl | C4H5Cl4NO2
reactant | sulphuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | 1,1,1-trichloro-2-benzamido-2-(chloroacetamido)ethane | 14.6g | ClC(C(NC(CCl)=O)NC(C1=CC=CC=C1)=O)(Cl)Cl | C11H10Cl4N2O2
